US08309718B2
Step 2. 3-(tetrahydro-2H-pyran-4-yl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propanenitrile
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.25 g, 0.00644 mol) in acetonitrile (20 mL, 0.4 mol) was added (2E)-3-(tetrahydro-2H-pyran-4-yl)acrylonitrile (1.00 g, 0.00729 mol), followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (1.09 mL, 0.00729 mol). The resulting mixture was stirred at room temperature overnight. After being evaporated to dryness, the residue was purified on silica gel, eluting with 0-100% EtOAc in hexanes, to provide the desired product (1.30 g, 60.93%). LCMS (M+H) 332.4.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.00644 mol, 1.25 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | acetonitrile | 0.4 mol, 20 mL | C(C)#N | C2H3N
reactant | (2E)-3-(tetrahydro-2H-pyran-4-yl)acrylonitrile | 0.00729 mol, 1.00 g | O1CCC(CC1)/C=C/C#N | C8H11NO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.00729 mol, 1.09 mL | N12CCCCCC2=NCCC1 | C9H16N2
product | 3-(tetrahydro-2H-pyran-4-yl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propanenitrile | 1.30 g, 60.93% | O1CCC(CC1)C(CC#N)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H26BN3O3
